US04831035
11.86 grams (104 mmol) of methanesulfonyl chloride was added to a solution of 10.2 grams (100 mmol) of acetylethylenediamine and 10.5 grams (104 mmol) of triethylamine in cold (0° C.) methylene chloride and the mixture was stirred for 3 hours. At the end of this period, the mixture was concentrated to obtain a residue. To the residue was added 500 milliliters of ammonia saturated chloroform, the resulting mixture was filtered to removed undesired by-product and the filtrate was concentrated to obtain 14.5 grams (80 percent yield) of 2-methanesulfonylaminoethylacetamide.

reactant | methanesulfonyl chloride | 104 mmol, 11.86 grams | CS(=O)(=O)Cl | CH3ClO2S
reactant | acetylethylenediamine | 100 mmol, 10.2 grams | C(C)(=O)NCCN | C4H10N2O
reactant | triethylamine | 104 mmol, 10.5 grams | C(C)N(CC)CC | C6H15N
reactant | ammonia | 500 milliliters | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methanesulfonylaminoethylacetamide | 14.5 grams, 80 percent yield | CS(=O)(=O)NCCCC(=O)N | C5H12N2O3S
